US06552067B2
Step F: 4-{3-[2-(3-Hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-propyl}-benzoic acid.
To a solution of 4-{3-[2-(3-hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-propyl}-benzoic acid methyl ester (2.28 g, 5.57 mmol) in MeOH (20 mL) was added 2N NaOH (5 mL). The reaction mixture was stirred at room temperature for 20 h and was heated under reflux for 3 h. The volatiles were removed in vacuo and the residue was diluted with CH2Cl2 and 1 N HCl. The aqueous solution was extracted with CH2Cl2 (2×) and the combined organic extracts were washed with brine. The organic solution was dried (MgSO4), filtered and concentrated to yield the title compound (2.03 g). 1H NMR (CDCl3) δ7.98 (d, 2H), 7.34-7.18 (m, 7H), 3.80 (m, 1H), 3.67 (m, 1H), 3.58 (m, 1H), 2.97 (m, 1H), 2.81 (m, 1H), 2.68 (m, 3H), 2.45-2.27 (m, 2H), 2.13-1.30 (m, 9H); MS 396.3 (M+1), 394.2 (M−1).

reactant | 4-{3-[2-(3-hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-propyl}-benzoic acid methyl ester | 5.57 mmol, 2.28 g | COC(C1=CC=C(C=C1)CCCN1C(CCC1=O)CCC(CC1=CC=CC=C1)O)=O | C25H31NO4
reactant | NaOH | 2N, 5 mL | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 4-{3-[2-(3-Hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-propyl}-benzoic acid | 2.03 g | OC(CCC1N(C(CC1)=O)CCCC1=CC=C(C(=O)O)C=C1)CC1=CC=CC=C1 | C24H29NO4
